US05604227
10-(2-Carboxyethylamino)-7-chloro-2,3-dihydropyridazino[4,5-b]quinoline-1,4-dione
A mixture of 10-(2-ethoxycarbonylethylamino)-7-chloro-2,3-dihydropyridazino[4,5-b]quinoline-1,4-dione (0.08 g, 0.22 mM) and 1N hydrochloric acid was refluxed for 1 hr and then cooled to room temperature and filtered. The collected orange solid was washed with water and air dried to provide (0.07 g, 97%) the title compound as an orange powder, mp 356°-359° C.; MS(CI): 335 (M+H). Analysis for C14H11ClN4O4 ·0.3 H2O: Calculated: C, 49.4; H, 3.44; N, 16.47 Found: C, 49.3; H, 3.23; N, 16.25

reactant | 10-(2-ethoxycarbonylethylamino)-7-chloro-2,3-dihydropyridazino[4,5-b]quinoline-1,4-dione | 0.22 mM, 0.08 g | C(C)OC(=O)CCNC1=C2C(=NC=3C=C(C=CC13)Cl)C(NNC2=O)=O | C16H15ClN4O4
reactant | hydrochloric acid | 1N | Cl | ClH
product | 10-(2-Carboxyethylamino)-7-chloro-2,3-dihydropyridazino[4,5-b]quinoline-1,4-dione | 0.07 g, 97% | C(=O)(O)CCNC1=C2C(=NC=3C=C(C=CC13)Cl)C(NNC2=O)=O | C14H11ClN4O4
